US06967254B2
Step A: 4-[4-(4-Chlorophenyl)-3-methoxy-5-pyridin-4-yl-pyrazol-1-yl]-piperidine-1-carboxylic acid tert-butyl ester
A solution of 4-[4-(4-chlorophenyl)-3-oxo-5-pyridin-4-yl-2,3-dihydro-pyrazol-1-yl]-piperidine-1-carboxylic acid tert-butyl ester (0.135 g, 0.3 mmol) in dry DMF (2 mL) was cooled to 0° C. and added lithium hydride (0.0035 g, 0.45 mmol). After stirring for 5 minutes, iodomethane (0.037 mL, 0.6 mmol) was added and the reaction was allowed to gradually warmed to room temperature and stirred for 20 hours. The reaction was diluted with ethyl acetate and washed with water; the aqueous layer was back-washed with ethyl acetate. The combined organic layer was washed with brine, dried (Na2SO4), and concentrated in vacuo. Flash chromatography with 1%, 3%, and 5% methanol/methylene chloride afforded 18.8 mg (13%) of a monomethylated product. MS (ES+): 469.2 (M+H)+.

reactant | 4-[4-(4-chlorophenyl)-3-oxo-5-pyridin-4-yl-2,3-dihydro-pyrazol-1-yl]-piperidine-1-carboxylic acid tert-butyl ester | 0.3 mmol, 0.135 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1NC(C(=C1C1=CC=NC=C1)C1=CC=C(C=C1)Cl)=O | C24H27ClN4O3
reactant | lithium hydride | 0.45 mmol, 0.0035 g | [H-].[Li+]
reactant | iodomethane | 0.6 mmol, 0.037 mL | IC | CH3I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[4-(4-Chlorophenyl)-3-methoxy-5-pyridin-4-yl-pyrazol-1-yl]-piperidine-1-carboxylic acid tert-butyl ester | 18.8 mg, 13% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=C(C(=C1C1=CC=NC=C1)C1=CC=C(C=C1)Cl)OC | C25H29ClN4O3
